US06451811B2
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1,7-dimethyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide
To a mixture of the N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-7-methyl[1,8]naphthyridine-3-carboxamide (0.081 g, 0.212 mmol) and potassium carbonate (0.117 g, 0.848 mmol) in 5 mL DMF is added methyl iodide (0.036 g, 0.254 mmol). The mixture is stirred at room temperature for 30 min then diluted with water. The resulting precipitate is filtered and dried. The crude solid is triturated with EtOAc-hexanes to yield 0.072 g (86%) of the desired product as a pale yellow solid. Physical characteristics are as follows: m.p. 217-218° C.; 1H NMR (DMSO-d6) δ 10.13, 8.99, 8.46, 7.39, 5.47, 4.55, 4.40, 3.99, 2.75; IR (drift) 3395, 1661, 1604, 1561, 1544, 1503, 1413, 1357, 1261, 1032, 1017, 842, 811, 800, 601 cm−1; MS (EI) m/z (rel. intensity) 395 (M+, 8), 255 (29), 229 (17), 228 (99), 198 (41), 169 (14), 140 (54), 89 (15), 77 (14), 73 (22), 73 (17); HRMS (FAB) calcd for C21H18ClN3O3+H1 396.1115, found 396.1121.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-7-methyl[1,8]naphthyridine-3-carboxamide | 0.212 mmol, 0.081 g | ClC1=CC=C(CNC(=O)C=2C=NC3=NC(=C(C=C3C2O)C#CCO)C)C=C1 | C20H16ClN3O3
reactant | potassium carbonate | 0.848 mmol, 0.117 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.254 mmol, 0.036 g | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1,7-dimethyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 0.072 g, 86% | ClC1=CC=C(CNC(=O)C2=CN(C3=NC(=C(C=C3C2=O)C#CCO)C)C)C=C1 | C21H18ClN3O3
